US08097628B2
Compound: Synthesis of (1R)-1-{[4-({[6-(trifluoromethyl)-3-pyridinyl]methyl}amino)-1-piperidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride, using Preparative Scheme (3)
A solution of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (for a synthesis see Example 11)) (400 mg, 1.33 mmol) and 6-(trifluoromethyl)-3-pyridinecarbaldehyde (233 mg, 1.33 mmol) in a mixture of DCM (5 ml) and MeOH (5 ml) was stirred at room temperature for 2 h. NaBH(OAc)3 (1.7 g, 7.99 mmol) was then added and the mixture was stirred at room temperature. The reaction was monitored by LCMS. More aldehyde (47 mg, 0.27 mmol), and NaBH(OAc)3 (421 mg, 1.98 mmol) were added and when full conversion was observed, it was quenched with 10% NaHCO3 and extracted with DCM. The organic layer was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography using a 70 g silica gel cartridge, and mixtures of DCM and MeOH as eluent afforded 463 mg (75%) of the expected product as the free base. It was dissolved in MeOH (50 ml). HCl (4M solution in 1,4-dioxane, 0.25 ml, 1 mmol) was added dropwise. After stirring at room temperature for 20 min, the solvent was evaporated. (1R)-1-{[4-({[6-(Trifluoromethyl)-3-pyridinyl]methyl}amino)-1-piperidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride (238 mg, 0.480 mmol, 36%) was obtained as a beige solid.

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 6-(trifluoromethyl)-3-pyridinecarbaldehyde | 1.33 mmol, 233 mg | FC(C1=CC=C(C=N1)C=O)(F)F | C7H4F3NO
reactant | NaBH(OAc)3 | 7.99 mmol, 1.7 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 1.98 mmol, 421 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 ml | CO | CH4O
product | (1R)-1-{[4-({[6-(trifluoromethyl)-3-pyridinyl]methyl}amino)-1-piperidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 463 mg, 75% | Cl.FC(C1=CC=C(C=N1)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O)(F)F | InChI=1S/C23H24F3N5O2.ClH/c24-23(25,26)19-4-1-15(12-28-19)11-27-17-7-9-29(10-8-17)13-18-14-30-20(32)5-2-16-3-6-21(33)31(18)22(16)30;/h1-6,12,17-18,27H,7-11,13-14H2;1H/t18-;/m1./s1
